US06756382B2
Under a nitrogen atmosphere isoquinoline-3-carboxylic acid (1.32 g, 7.63 mmol), 1-hydroxybenzotriazole (1.12 g, 8.27 mmol), and dichloromethane (60 mL) were combined, allowed to stir for several minutes and then cooled to 0° C. 1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride was added. Pyridine (1.8 mL) was added and the resulting mixture was allowed to stir for at least 60 minutes. A solution of 1-(4-aminobutyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine (2.0 g, 6.37 mmol) in dichloromethane (250 mL) was added dropwise. The reaction mixture was allowed to stir at ambient temperature overnight. The reaction mixture was washed with sodium bicarbonate, dried over magnesium sulfate, filtered and then concentrated under reduced pressure. The crude material was purified by column chromatography (40 g silica gel eluting with dichloromethane/methanol 9/1) followed by recrystallization from methanol to provide 882 mg of N-{4-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butyl}isoquinoline-3-carboxamide as a yellow crystalline solid, m.p. 199-200° C. Analysis: Calculated for C27H28N6O2: % C, 69.21; % H, 6.02; % N, 17.94. Found: % C, 69.03; % H, 5.99; % N, 18.11.

reactant | isoquinoline-3-carboxylic acid | 7.63 mmol, 1.32 g | C1=NC(=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | 1-hydroxybenzotriazole | 8.27 mmol, 1.12 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
reactant | 1-(4-aminobutyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 6.37 mmol, 2.0 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCOC | C17H23N5O
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | Pyridine | 1.8 mL | N1=CC=CC=C1 | C5H5N
product | N-{4-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butyl}isoquinoline-3-carboxamide | 882 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNC(=O)C=2N=CC1=CC=CC=C1C2)CCOC | C27H28N6O2
